US07601845B2
To a suspension of 3-perylenoyl propanoic acid methyl ester (360.2 mg, 0.983 mmol) in 2.0 mL diethylene glycol, 98% hydrazine hydrate (150.6 μL, 2.949 mmol) and powdered potassium hydroxide (275.3 mg, 4.916 mmol) were added. The reaction mixture was heated to 140° C. for 2 hrs, then to 190° C. and kept over night, cooled to room temperature, diluted with 20 mL water, acidified with 0.5 mL concentrated hydrochloric acid, the precipitate formed was filtered, washed with water to pH 7.0, dried on air or washed with acetone, then with a mixture chloroform-methanol (8:2 by vol.). The filtrate was concentrated in vacuo. The crude product was applied onto a silica gel column and eluted with chloroform to 20% methanol in chloroform to give perylenebutanoic acid (228.9 mg, 68.8%). Rf 0.66 (system 3). 1H-NMR (CDCl3/DMSO-d6, 20:1) (δ, ppm): 1.92 (quin., 2H, 3-CH2), 2.38 (t, 2H, J 7.00 Hz, 2-CH2), 3.03 (t, 2H, J 7.00 Hz, 4-CH2), 7.41 (d, 1H, J 7.82 Hz, Ar), 7.43-7.64 (m, 3H, Ar), 7.76 (d, 1H, J 3.42 Hz, Ar), 7.80 (d, 1H, J 3.41 Hz, Ar), 8.00 (d, 1H, J 8.49 Hz, Ar), 8.21-8.60 (m, 4H, Ar).

reactant | 3-perylenoyl propanoic acid methyl ester | 0.983 mmol, 360.2 mg | COC(CCC(=O)C1=CC=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45)=O | C25H18O3
reactant | hydrazine hydrate | 2.949 mmol, 150.6 μL | O.NN
reactant | potassium hydroxide | 4.916 mmol, 275.3 mg | [OH-].[K+]
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
solvent | diethylene glycol | 2.0 mL | C(COCCO)O | C4H10O3
solvent | water | 20 mL | O | H2O
product | perylenebutanoic acid | 228.9 mg, 68.8% | C1(=CC=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45)CCCC(=O)O | C24H18O2
